US07919504B2
tert-Butyl (S)-1-(5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate.
tert-Butyl 5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-ylcarbamate (0.587 g, 1.72 mmol) and cesium carbonate (1.12 g, 3.45 mmol) were heated to 50° C. in 15 mL THF in a round bottle flask. (S)-tert-Butyl 4-(4-(trifluoromethyl)benzyl)-1,2,3-oxathiazolidine-3-carboxylate-2,2-dioxide (0.855 g, 2.24 mmol) in 10 mL THF was added to the flask dropwise, and the mixture was heated at 50° C. for 30 minutes. The flask was then cooled to 20° C., and 10 mL 1 N HCl was added to the flask. The resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was combined with 200 mL EtOAc. The organic phase was washed with water, twice with saturated ammonium sulfate, and dried over sodium sulfate. After removing the solvent, the product was obtained as yellow oil. LCMS indicated two major peaks with the same desired product M+1. The product thus obtained was used directly in the next step.

reactant | tert-Butyl 5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-ylcarbamate | 1.72 mmol, 0.587 g | FC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(S1)NC(OC(C)(C)C)=O | C13H13FN4O4S
reactant | cesium carbonate | 3.45 mmol, 1.12 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-tert-Butyl 4-(4-(trifluoromethyl)benzyl)-1,2,3-oxathiazolidine-3-carboxylate-2,2-dioxide | 2.24 mmol, 0.855 g | FC(C1=CC=C(C[C@@H]2N(S(OC2)(=O)=O)C(=O)OC(C)(C)C)C=C1)(F)F | C15H18F3NO5S
reactant | HCl | 1 N, 10 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl (S)-1-(5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | FC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(S1)N(C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C28H31F4N5O6S
